US07700591B2
A mixture of 1-(1-hydroxyethyl)-3-oxocyclopentanecarboxylic acid (3.54 g, 20.6 mmol), 1-hydroxy-7-azabenzotriazole (4.14 g, 30.9 mmol), and EDC (5.92 g, 30.9 mmol) in 70 mL of DCM was stirred at rt for 10 min then 1-[2-tert-butoxy-5-(trifluoromethyl)phenyl]methanamine (5.08 g, 20.6 mmol) was added in 10 mL of DCM. The resulting mixture was stirred at rt for 50 min, then was diluted with DCM and washed with water followed by brine. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 85% ethyl acetate/hexanes) provided N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-(1-hydroxyethyl)-3-oxocyclopentanecarboxamide as a mixture of threo and erythro enantiomer pairs.

reactant | 1-(1-hydroxyethyl)-3-oxocyclopentanecarboxylic acid | 20.6 mmol, 3.54 g | OC(C)C1(CC(CC1)=O)C(=O)O | C8H12O4
reactant | 1-hydroxy-7-azabenzotriazole | 30.9 mmol, 4.14 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 30.9 mmol, 5.92 g
reactant | 1-[2-tert-butoxy-5-(trifluoromethyl)phenyl]methanamine | 20.6 mmol, 5.08 g | C(C)(C)(C)OC1=C(C=C(C=C1)C(F)(F)F)CN | C12H16F3NO
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-(1-hydroxyethyl)-3-oxocyclopentanecarboxamide | C(C)(C)(C)OC1=C(CNC(=O)C2(CC(CC2)=O)C(C)O)C=C(C=C1)C(F)(F)F | C20H26F3NO4
